US06432952B1
To a solution of 2-(R)-(1-(R)-(3,5-bis(trifluoromethyl)phenyl)-ethoxy)-4-(5-(dimethylamino)methyl-1,2,3-triazol-4-yl)methyl-3-(S)-(4-fluorophenyl)-morpholine (1.417 kg, 2.46 mol) in ethyl acetate (7.5 L) at room temperature is added a solution of HCl in isopropanol (approx. 495 mL). The end point was monitored by taking 1 mL solution, diluting with 2 mL IPA and 2 mL of water and checking its pH, to a preferred end point of 4.6˜4.8. After reaching its end point, an additional amount of isopropanol (255 mL) was added to bring the total volume of isopropanol to 750 mL. Heptane (4 L) was added followed by seed of Form I. The mixture was aged for two hours, then additional heptane (20.75 L) was added over a period of 6 hours and the mixture was aged for 16 hours before filtering. The resulting solid was collected by filtration and the cake was washed with ethyl acetatelheptane (5 L, 1/2 mixture) and then dried to afford 1.32 kg of 2-(R)-(1-(R)-(3,5-bis(trifluoromethyl)phenyl)-ethoxy)4-(5-(dimethylamino)methyl-1,2,3-triazol-4-yl)methyl-3-(S)-(4-fluoro-phenyl)morpholine hydrochloride.

reactant | 2-(R)-(1-(R)-(3,5-bis(trifluoromethyl)phenyl)-ethoxy)-4-(5-(dimethylamino)methyl-1,2,3-triazol-4-yl)methyl-3-(S)-(4-fluorophenyl)-morpholine | 2.46 mol, 1.417 kg | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H](C)O[C@@H]1[C@@H](N(CCO1)CC=1N=NNC1CN(C)C)C1=CC=C(C=C1)F)(F)F | C26H28F7N5O2
reactant | HCl | Cl | ClH
reactant | Heptane | 4 L | CCCCCCC | C7H16
reactant | heptane | 20.75 L | CCCCCCC | C7H16
solvent | ethyl acetate | 7.5 L | C(C)(=O)OCC | C4H8O2
solvent | isopropanol | approx. 495 mL | C(C)(C)O | C3H8O
solvent | IPA | 2 mL | CC(C)O | C3H8O
solvent | water | 2 mL | O | H2O
solvent | isopropanol | 255 mL | C(C)(C)O | C3H8O
product | 2-(R)-(1-(R)-(3,5-bis(trifluoromethyl)phenyl)-ethoxy)4-(5-(dimethylamino)methyl-1,2,3-triazol-4-yl)methyl-3-(S)-(4-fluoro-phenyl)morpholine hydrochloride | 1.32 kg | Cl.FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H](C)O[C@@H]1[C@@H](N(CCO1)CC=1N=NNC1CN(C)C)C1=CC=C(C=C1)F)(F)F | InChI=1S/C26H28F7N5O2.ClH/c1-15(17-10-18(25(28,29)30)12-19(11-17)26(31,32)33)40-24-23(16-4-6-20(27)7-5-16)38(8-9-39-24)14-22-21(13-37(2)3)34-36-35-22;/h4-7,10-12,15,23-24H,8-9,13-14H2,1-3H3,(H,34,35,36);1H/t15-,23+,24-;/m1./s1
